US07547779B2
Step 1. 3-[(1E)-3-(4-methyl-1-piperazinyl)-3-oxo-1-propen-1-yl]phenol
Under nitrogen, to a solution of (2E)-3-(3-hydroxyphenyl)-2-propenoic acid (330 mg, 2.0 mmol) in THF (20 mL), was added 1-methylpiperazine (400 mg, 4.0 mmol), HOBT (810 mg, 6.0 mmol), HBTU (760 mg, 2 mmol), followed with 4-methylmorpholine (670 μL, 6.0 mmol). This mixture was then stirred at rt for overnight. The reaction mixture was concentrated and the residue was purified with reverse phase HPLC (5% MeCN/H2O→60% MeCN/H2O) to afford the title compound as a white solid (397 mg, 81%). MS (S+) m/e 247 [M+H]+.

reactant | (2E)-3-(3-hydroxyphenyl)-2-propenoic acid | 2.0 mmol, 330 mg | OC=1C=C(C=CC1)/C=C/C(=O)O | C9H8O3
reactant | 1-methylpiperazine | 4.0 mmol, 400 mg | CN1CCNCC1 | C5H12N2
reactant | HOBT | 6.0 mmol, 810 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 2 mmol, 760 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 6.0 mmol, 670 μL | CN1CCOCC1 | C5H11NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[(1E)-3-(4-methyl-1-piperazinyl)-3-oxo-1-propen-1-yl]phenol | 397 mg, 81% | CN1CCN(CC1)C(/C=C/C=1C=C(C=CC1)O)=O | C14H18N2O2
